US09034866B2
Synthesis of (±)-10-bromo-3-((3,5-difluorophenyl)(hydroxy)methyl)-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide
10-bromo-3-((3,5-difluorophenyl)(hydroxy)methyl)-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxylic acid was reacted with ammonium chloride and purified by flash chromatography to afford 57 mg (45% yield) of the title compound.

reactant | 10-bromo-3-((3,5-difluorophenyl)(hydroxy)methyl)-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxylic acid | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)O)C(O)C3=CC(=CC(=C3)F)F)C1)F | C19H12BrF3N2O4
reactant | ammonium chloride | [Cl-].[NH4+]
product | (±)-10-bromo-3-((3,5-difluorophenyl)(hydroxy)methyl)-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | 57 mg, 45% yield | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C(O)C3=CC(=CC(=C3)F)F)C1)F | C19H13BrF3N3O3
